US04560770
(1c) 2,6-Difluorobenzamide
To 240 g of concentrated sulfuric acid and 24 ml of water are added dropwise, at room temperature, 100 g (0.72 mol) of 2,6-difluorobenzonitrile. The reaction mixture is stirred at 80°-85° C. for 12 hours, and then poured into 1.2 kg of ice-water; the mixture is stirred for 30 minutes and subsequently filtered. The crystals are washed neutral with water, and are afterwards dried at 85° C. in vacuo; yield: 91.0 g (80.6%), melting point: 140°-141.5° C.

reactant | sulfuric acid | 240 g | S(O)(O)(=O)=O | H2O4S
reactant | 2,6-difluorobenzonitrile | 0.72 mol, 100 g | FC1=C(C#N)C(=CC=C1)F | C7H3F2N
solvent | water | 24 ml | O | H2O
product | 2,6-Difluorobenzamide | FC1=C(C(=O)N)C(=CC=C1)F | C7H5F2NO
